datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10]([H])[C:20]([NH:21]CC)([O]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10][H].CC[NH+:21]=[C:20]([O]C)[NH]C7=CC=CC=C7 21=20;20,10=10"
"[O-:21][C:20]1(C)C([H])C(O)C(O)C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C(O)C(O)C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)[H])C>>CCCCCCN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)[H])[O-:10])C 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(C)[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"[H][NH+:10](C([H])C(C)[NH]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)[NH][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([O][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([NH:21][H])[O][H] 10=20;20,21=21"
"[H][S+:10](C(C)C([H])C([H])[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH](C)[NH]1 10=20;20,21=21"
"[O-:21][C:20]1(C)C(C)C([H])C(C)C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C(C)C([H])C(C)[C:20](C)=[O:21] 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[S][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)[H])CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)[H])CCCCCC.[O-:21]CC 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])=C(C)C([H])C([H])[O:10]1>>[O-:10]C([H])C([H])/C(C)=C([H])\[C:20]([H])=[O:21] 21=20;20,10=10"
"[O:10]([K])C([H])/C([H])=C([C:20]([H])=[O:21])/O>>[O-:21][C:20]1([H])[O+:10]([K])C([H])C([H])=C1O 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21][H])[S]C([H])C(CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C([H])C(CC)[O]2.C[S:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C([H])[O][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
"[NH:10]([H])C(C)C(C)/C([H])=C([H])\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])=C([H])C(C)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CC)[O-:10])CC>>CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CC)CC 10=20;20,21=21"
"C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C8=CC=CC=C8)[O][H] 10=20;20,21=21"
"[NH:10]([H])C1=C(C([H])[C:20](OC)=[O:21])C=CC=C1>>[O-:21][C:20]2([NH+:10]([H])C(C=CC=C3)=C3C2[H])OC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C(C)C(CC)[S]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)C(CC)[S][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H][S:10]C(C)C(CC)[S][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C(CC)[S]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"[H][O:10]C([H])C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC 10=20;20,21=21"
"[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"CC1C(C(O[C:20](N1C)([O-:10])[Cl:21])CC)CC>>CC1C(C(O[C:20](=[O:10])N1C)CC)CC.[Cl-:21] 10=20;20,21=21"
"C[O+:21]=[C:20]2[S]C(C)C(CC)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S]C(C)C(CC)[S]1 10=20;20,21=21"
"C1(C([O:21][C:20](O1)([O-:10])OC1=CC=CC=C1)[H])CCCCCC>>C(C(O[C:20](=[O:10])OC1=CC=CC=C1)CCCCCC)([O-:21])[H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](C)[S]1 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)[H])[H])[O-:10])CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)[H])[H])CCCCCC 10=20;20,21=21"
"[O-:21][C:20]1([H])[O+:10]([Na])C(CC)C(C)=C1[H]>>[O:10]([Na])C(CC)/C(C)=C([C:20]([H])=[O:21])/[H] 21=20;20,10=10"
